US04151302
0.3 g. of paraformaldehyde is added to Grignard solution prepared from 3.11 g. of 4-(1-bromo-2-propyl)-2',4'-difluorobiphenyl and 0.26 g. of magnesium powder in 40 ml. of THF and the mixture is allowed to stand for 5 days. It is worked up in the customary manner, using ice/dilute hydrochloric acid, to give 3-(2',4'-difluoro-4-biphenylyl)butan-1-ol.

reactant | paraformaldehyde | C=O | CH2O
reactant | 4-(1-bromo-2-propyl)-2',4'-difluorobiphenyl | BrCC(C)C1=CC=C(C=C1)C1=C(C=C(C=C1)F)F | C15H13BrF2
reactant | magnesium | [Mg] | Mg
solvent | THF | C1CCOC1 | C4H8O
product | 3-(2',4'-difluoro-4-biphenylyl)butan-1-ol | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(CCO)C | C16H16F2O
